US06184242B2
A mixture of 4,4′-methylenedianiline (19.8 g), potassium carbonate (20 g) in ethyl acetate (300 mL) and water (200 mL) was stirred in an ice bath. Benzyl chloroformate (15 mL) was slowly added to the mixture. The resulting mixture was stirred for 1 hour, then the organic layer was separated, and the aqueous layer extracted with additional ethyl acetate. The combined organic extracts were washed with water and brine, dried (Na2SO4), and the solvent removed in vacuo. The crude mixture was isolated by column chromatography on silica gel, eluting with 30% ethyl acetate/hexanes, to give 4-(4-aminobenzyl)phenyl-carbamic acid benzyl ester as solid.

reactant | 4,4′-methylenedianiline | 19.8 g | C(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C13H14N2
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl chloroformate | 15 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
product | 4-(4-aminobenzyl)phenyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)CC1=CC=C(C=C1)N)=O | C21H20N2O2
